Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
S/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ with a past medical history notable for
Alzheimer's dementia who presents to the ED s/p fall. 

Patient reports a history of several days of non-bloody diarrhea
for and today attempted to rush to the bathroom to have a BM. 
She
tripped and fell forward with positive head strike onto the
bathroom counter. Patient denies LOC. This event was 
unwitnessed.
EMS arrived and found her sitting up and alert. She was
ambulatory on the scene afterwards with some help. 

In the ED, she reported headache but denies neck pain, vision
loss, abdominal pain, N/V. No palpitations, CP, dyspnea or any
other symptoms prior to fall. Denies any recent fevers or
dysuria. She reports a ___ lb. weight loss over the past week
in the setting of her copious diarrhea. 

Of note, patient sustained a fall two weeks ago when she 
tripped.
She has also recently been treated with macrobid for a UTI.

In the ED, initial VS were: T 97.5, Tmax 100.6, HR 74 BP 147/69
RR 18 O2 96% RA 
  
ECG: NSR, rate 76, normal axis, normal intervals, no ST-T 
changes

Labs showed:  
- WBC 9.1, Hgb 12.1
- Lactate 1.1
- Trop <0.01 x2
- Na 134, BUN 14, Cr 0.6
- UA negative 
- C.diff negative

Imaging showed: 
- CT C-spine:
1. No acute fracture.
2. Minimal anterolisthesis of C4 on C5 likely degenerative in
nature.
3. Multilevel degenerative changes of the cervical spine.

- CT Head w/o con:
1. No acute intracranial process.
2. Right frontoparietal and left frontal subgaleal hematomas,
without evidence
of underlying fracture.

- Hip XR:
No evidence of acute fracture. Severe degenerative changes of 
the
right hip.

- CXR: 
No acute intrathoracic process
  
Patient received:  
- IV acetaminophen 1000mg, Tdap IM, TMP-SMX DS 1 tab PO, 500ml 
NS

Transfer VS were: T 97.9 HR 75 BP 121/53 RR 18 O2 96% RA 

On arrival to the floor, patient endorses the above history and
adds that her diarrhea has been going on for about a month. It 
is
intermittent, watery, and non-bloody. She also reports decreased
appetite for several days and ___. weight loss over unclear
time period. Denies fevers, chills or night sweats. Does not
believe she has had a recent colonoscopy or mammogram.
 
Past Medical History:
Alzheimer's dementia
Breast cancer s/p partial mastectomy 
HTN
HLD
OA
 
Social History:
___
Family History:
No family history of cancer that patient can recall
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.2 161/70 57 17 95 Ra 
GENERAL: Well-appearing, in NAD
HEENT: 4mm lacteration on R forehead that has been sutured, ___
in. laceration on top of head with crusted blood surrounding
suture lines
NECK: Supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: Abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: Lower extremities symetrically edematous, mild
erythema on bilateral lower ankles
SKIN: Warm, well-perfused, no rashes
NEURO: Alert, oriented x3, moving all 4 extremities with 
purpose,
face symmetric  

DISCHARGE PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___ @ 753)
    Temp: 98.7 (Tm 98.7), BP: 120/64 (97-120/60-67), HR: 73
(73-86), RR: 20 (___), O2 sat: 95% (95-96), O2 delivery: RA,
Wt: 113.1 lb/51.3 kg  
GENERAL: NAD
HEENT: 4mm lacteration on R forehead that has been sutured, 4-5
cm laceration on top of head with crusted blood surrounding
suture lines
CV: RRR, S1/S2, no murmurs/gallops/rubs  
PULM: CTAB, no wheezing/crackles/rhonchi
ABD: Soft, NTND.  
EXTREMITIES: Warm and well perfused. No ___ edema.
NEURO: A&Ox3, following commands, grossly intact. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:00PM BLOOD WBC-9.1 RBC-4.03 Hgb-12.1 Hct-36.1 MCV-90 
MCH-30.0 MCHC-33.5 RDW-13.2 RDWSD-43.8 Plt ___
___ 03:00PM BLOOD ___ PTT-24.1* ___
___ 03:00PM BLOOD Glucose-107* UreaN-14 Creat-0.6 Na-134* 
K-4.0 Cl-97 HCO3-21* AnGap-16
___ 06:15AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.0
___ 03:51PM BLOOD Lactate-1.1
___ 10:04PM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD cTropnT-<0.01

DISCHARGE LABS:
===============

___ 07:10AM BLOOD WBC-6.5 RBC-3.52* Hgb-10.4* Hct-32.2* 
MCV-92 MCH-29.5 MCHC-32.3 RDW-13.7 RDWSD-45.7 Plt ___
___ 07:10AM BLOOD ___ PTT-27.2 ___
___ 05:50AM BLOOD Glucose-87 UreaN-10 Creat-0.5 Na-142 
K-4.2 Cl-104 HCO3-29 AnGap-9*
___ 05:50AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.0

MICROBIOLOGY:
=============
___ 6:00 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   MICROSPORIDIA STAIN (Pending): 

   CYCLOSPORA STAIN (Pending): 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Pending): 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
========
CT HEAD ___:
1. No acute intracranial process. 
2. Right frontoparietal and left frontal subgaleal hematomas, 
without evidence 
of underlying fracture. 

CT C-SPINE ___:
1. No acute fracture. 
2. Minimal anterolisthesis of C4 on C5 likely degenerative in 
nature. 
3. Multilevel degenerative changes of the cervical spine. 

HIP XR ___:
No evidence of acute fracture.  Severe degenerative changes of 
the right hip.

CXR ___:
AP portable semi upright view of the chest.  Clips are noted in 
the right 
axilla.  The lungs are clear bilaterally. There is no focal 
consolidation, 
effusion, or pneumothorax. The cardiomediastinal silhouette is 
normal. Imaged 
osseous structures are intact.  Hypertrophic changes at the AC 
joints with 
joint space narrowing consistent with OA. 
  
IMPRESSION:  
  
No acute intrathoracic process 

KNEE XR ___:
Status post total knee replacement.  The hardware is well 
aligned.  The joint 
anatomy is also well maintained.  Bones are severely osteopenic. 
 No obvious 
fractures are seen.  There are extensive vascular 
calcifications.  Small joint 
effusion is seen. 

 
Brief Hospital Course:
==================
SUMMARY STATEMENT
==================
Ms. ___ is a ___ with past medical history of Alzheimer's 
dementia who presents from her facility s/p mechanical fall with 
head lacerations that were sutured in the ED.

=====================
TRANSITIONAL ISSUES 
=====================
[] Needs sutures in scalp removed on ___
[] Will need further outpatient workup for chronic diarrhea, 
C.diff was negative this admission 

===========================
HOSPITAL COURSE BY PROBLEM 
===========================

ACUTE ISSUES: 
=============
# S/p fall
# Knee pain
# Head laceration
Patient presents s/p fall with scalp lacteration s/p suturing in 
the ED. Also complaining of knee pain on arrival to floor. 
Denies any symptoms preceding fall to suggest syncope, and no 
cardiac hx to suggest cardiac syncope. ECG/troponins negative. 
No events on telemetry. Orthostatics negative. Knee XR negative 
for acute fracture or malalignment of hardware. CTH was notably 
for subgaleal hematomas but no intracerebral hemorrhage. Given 
the above her fall was thought to be entirely mechanical. 
Sutures should be removed ___

#Severe protein calorie malnutrition
Pt and family report 15 lb weight loss in last month. Weight 
loss likely multifactorial iso poor PO intake and diarrhea. No 
symptoms to suggest malignancy, per family she is up to date on 
malignancy screenings. 

#Diarrhea 
Pt and family noting ___ weeks of loose stool associated w/ 
weight loss, no abdominal pain, nausea, fever or chills. 
Improved on bland diet and then worsened w/ Bactrim. C.diff 
negative. Given loperamide for symptomatic management with noted 
improvement. Stool cultures negative

#depression
#passive SI 
Pt noted hopelessness and desire to pass away to both ___ and 
staff initially. No plan, no active SI. SW was consulted. We 
continued her home sertraline. 

========================
CHRONIC/RESOLVED ISSUES: 
======================== 
#UTI, resolved
Started on Bactrim at OSH last ___, finished ___. This medication was stopped on arrival. 

# Alzheimer's dementia
Continued home donepezil

# HTN
- Continued home enalapril

# HLD
- Continued home atorvastatin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Donepezil 10 mg PO QHS 
3. Enalapril Maleate 10 mg PO DAILY 
4. Sertraline 25 mg PO DAILY 
5. Sulfameth/Trimethoprim DS 1 TAB PO BID 
6. TraMADol 50 mg PO BID:PRN Pain - Moderate 

 
Discharge Medications:
1.  LOPERamide 2 mg PO BID:PRN Diarrhea  
2.  Atorvastatin 10 mg PO QPM  
3.  Donepezil 10 mg PO QHS  
4.  Enalapril Maleate 10 mg PO DAILY  
5.  Sertraline 25 mg PO DAILY  
6.  TraMADol 50 mg PO BID:PRN Pain - Moderate  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Mechanical fall 

===================
SECONDARY DIAGNOSIS
===================
Diarrhea 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ 

___ see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___! 

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
- You were admitted to the hospital because you fell and hit 
your head 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL? 
- You had sutures placed for the cut on your head
- You had a CT of your head that showed bruises (hematoma) but 
no bleeding in your brain 
- You had xrays of your neck and knee which were negative for 
any broken bones 
- You were seen by physical therapy 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL? 
- See your normal doctor for management of your diarrhea
- Always use your walker when walking around 

We wish you all the best! 
- Your ___ Care Team
 
Followup Instructions:
___